US08377957B2
4-Chloro-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol (3.9 g, 12 mmol) and ammonia (70 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated in an oven at 150° C. overnight. The volatiles were removed under reduced pressure. The crude product was purified by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane in a gradient from 0:0:100 to 0.4:7.6:92). The chromatographed product was triturated twice with hot acetonitrile, collected by filtration, and dried in a vacuum oven to provide 800 mg of 4-amino-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol as a white solid, mp greater than 250° C.

reactant | 4-Chloro-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 12 mmol, 3.9 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2CCOCC2)O | C16H16ClN3O2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 800 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2CCOCC2)O | C16H18N4O2
